US07754737B2
Step 2. (S)-3-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-ylcarbamoyl)benzoic acid
A mixture of (S)-methyl 3-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-2-ylcarbamoyl)benzoate (1.397 g) and LiOH.H2O (0.430 g, 10 mmol, 5.7 equiv) in THF (50 mL) and H2O (10 mL) was vigorously stirred at rt for 23 h. The reaction mixture was quenched with 2 N HCl (6 mL). After the organic solvent was removed in vacuo, the aqueous phase was extracted with CH2Cl2 (3×) and the combined organic layers were dried over Na2SO4. The crude (S)-3-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-ylcarbamoyl)benzoic acid (0.923 g) was used in the next step without further purification. LC-MS (3 min) tR=2.06 min, m/z 485 (M+Na+), 435, 391. 13C NMR (100 MHz, CDCl3) δ 168.45, 166.95, 157.89, 135.27, 132.73, 132.34, 129.95, 128.47, 128.42, 64.25, 52.86, 45.49, 40.59, 34.58, 34.26, 33.77, 33.13, 26.46, 26.23, 26.11, 17.64, −1.61.

reactant | (S)-methyl 3-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-2-ylcarbamoyl)benzoate | 1.397 g | C1(CCCCC1)C[C@@H](CN(C(=O)OCC[Si](C)(C)C)C)NC(=O)C=1C=C(C(=O)OC)C=CC1 | C25H40N2O5Si
reactant | LiOH.H2O | 10 mmol, 0.430 g, 5.7 equiv | O[Li].O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
product | (S)-3-(1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-ylcarbamoyl)benzoic acid | C1(CCCCC1)C[C@@H](CN(C(=O)OCC[Si](C)(C)C)C)NC(=O)C=1C=C(C(=O)O)C=CC1 | C24H38N2O5Si
